US04775675
3-Acetyl-2(S)-(4-chlorophenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid
5.6 ml of acetic anhydride are given to a suspension containing 2.71 g (10 mmoles) of 2-(4-chlorophenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid in 5.6 ml of hot water and the mixture is kept at 100° C. for 8 minutes. A complete solution is obtained. On cooling, the product precipitates to give the title compound in a yield of 2.39 g (76.1%) which is recrystallized from ethanol by adding water, m.p.: 203°-205° C., [α]D22 =+111.5° (c=1.44, dimethylsulphoxide).

reactant | acetic anhydride | 5.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(4-chlorophenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid | 10 mmoles, 2.71 g | ClC1=CC=C(C=C1)C1SC([C@@H](N1)C(=O)O)(C)C | C12H14ClNO2S
solvent | water | 5.6 ml | O | H2O
product | 3-Acetyl-2(S)-(4-chlorophenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid | C(C)(=O)N1[C@@H](SC([C@@H]1C(=O)O)(C)C)C1=CC=C(C=C1)Cl | C14H16ClNO3S
